US05389614
7e. (5-(S)-(4-Aminobenzyl)-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine
220 mg (0.43 mmol) of (5-(S)-(4-nitrobenzyl)-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine are dissolved in 50 ml of methanol. After addition of 10 mg of 10% strength Pd-on-charcoal, the mixture is hydrogenated at room temperature for 3 hours, the catalyst is filtered off, the filtrate is concentrated and the product is freeze-dried.

reactant | (5-(S)-(4-nitrobenzyl)-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine | 0.43 mmol, 220 mg | [N+](=O)([O-])C1=CC=C(C[C@H]2C(N(C(N2)=O)N([C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)O)C(C)=O)=O)C=C1 | C21H25N5O10
solvent | methanol | 50 ml | CO | CH4O
product | (5-(S)-(4-Aminobenzyl)-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine | NC1=CC=C(C[C@H]2C(N(C(N2)=O)N([C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)O)C(C)=O)=O)C=C1 | C21H27N5O8
